US04097579
A solution of 200 mg. of 5-(N-methyl-2-pyrroyl)-1,2-dihydro-6-methyl-3H-pyrrolo[1,2-a]pyrrole-1-carboxylic acid in 5 ml. of methylene chloride is treated with an excess of ethereal diazomethane, and the reaction mixture is maintained at room temperature for 30 minutes. The solvents and excess reagent are eliminated under reduced pressure and the residue crystallized from ethyl acetate-methanol, to yield methyl 5-(N-methyl-2-pyrroyl)-1,2-dihydro-6-methyl-3H-pyrrolo[1,2-a]pyrrole-1-carboxylate.

reactant | 5-(N-methyl-2-pyrroyl)-1,2-dihydro-6-methyl-3H-pyrrolo[1,2-a]pyrrole-1-carboxylic acid | CN1C(=CC=C1)C(=O)C1=C(C=C2N1CCC2C(=O)O)C | C15H16N2O3
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | methyl 5-(N-methyl-2-pyrroyl)-1,2-dihydro-6-methyl-3H-pyrrolo[1,2-a]pyrrole-1-carboxylate | CN1C(=CC=C1)C(=O)C1=C(C=C2N1CCC2C(=O)OC)C | C16H18N2O3
